US07906645B2
1-(Benzyloxy)-3-[tert-butyl(2-hydroxyethyl)amino]propan-2-ol
A solution of 2-[(benzyloxy)methyl]oxirane (350 mg) and 2-(tert-butylamino)ethanol (500 mg) in ethanol (20 mL) was heated to reflux temperature and left at this temperature overnight. The solution was concentrated at reduced pressure. The residue was purified by filtration through a short pad of silica eluting with 20% methanol in dichloromethane. This gave the title compound as a colourless oil (501 mg)

reactant | 2-[(benzyloxy)methyl]oxirane | 350 mg | C(C1=CC=CC=C1)OCC1OC1 | C10H12O2
reactant | 2-(tert-butylamino)ethanol | 500 mg | C(C)(C)(C)NCCO | C6H15NO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-(Benzyloxy)-3-[tert-butyl(2-hydroxyethyl)amino]propan-2-ol | 501 mg | C(C1=CC=CC=C1)OCC(CN(CCO)C(C)(C)C)O | C16H27NO3
